US04696931
8-(2'-Methoxy-4'-methylaminosulfonyl-phenyl)-purine hydrochloride
Prepared analogously to Example 50 from 2-methoxy-4-chlorosulfonyl-benzoic acid, aqueous methylamine solution, and 4,5-diamino-pyrimidine. The crude free base was converted into the hydrochloride with 2N hydrochloride acid, and the hydrochloride was purified by boiling with methanol.

reactant | 2-methoxy-4-chlorosulfonyl-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)Cl | C8H7ClO5S
reactant | methylamine | CN | CH5N
reactant | 4,5-diamino-pyrimidine | NC1=NC=NC=C1N | C4H6N4
reactant | hydrochloride | Cl | ClH
reactant | hydrochloride | 2N | Cl | ClH
product | 8-(2'-Methoxy-4'-methylaminosulfonyl-phenyl)-purine hydrochloride | Cl.COC1=C(C=CC(=C1)S(=O)(=O)NC)C1=NC2=NC=NC=C2N1 | InChI=1S/C13H13N5O3S.ClH/c1-14-22(19,20)8-3-4-9(11(5-8)21-2)12-17-10-6-15-7-16-13(10)18-12;/h3-7,14H,1-2H3,(H,15,16,17,18);1H
